Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
gluten
 
Attending: ___.
 
Chief Complaint:
blood per rectum
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per the admission H&P:

Mr ___ is an ___ year old male currently s/p excision of 
recurrent hypertrophied anal papilla and rectal polyp at ___ 
___ by Dr. ___ ___, presented to ___ with 
3 days of persistent rectal bleeding and weakness. Since his 
operation he has had minimal bleeding and his diarrhea has been 
roughly stable, which he manages with loperamide 6mg daily. 3 
days ago he began having episodes of bright red blood in his 
stool with increased urge to defecate. He estimates about an 
ounce or two per episode. He spoke with the NP in Dr. ___ 
office on ___, who recommended ___ baths. His symptoms 
resolved, but yesterday he had similar symptoms again that were 
more frequent, and these episodes were much more uncomfortable. 
Overnight he continued to pass ___ ounces of bright red blood 
every ___ minutes and felt increasingly fatigued and short of 
breath on short distance walking.

Initially in the ___, he  was hemodynamically stable 
with BP in low 100s-115, HR in ___. His HCT was 31, minimally 
decreased from baseline (33-34), last checked ___.  He was 
found to have dried blood around his anus, but no
active bleeding on DRE. He then shortly had the urge to defecate 
and reportedly passed another ___ ounces of bright red blood in 
the toilet. On the way back to the stretcher he had a syncopal 
event with with SBP in mid ___, which improved to the ___ after 
lying back down and into the low 100s after a fluid bolus. 

Currently denies abdominal pain, nausea, vomiting, 
fevers/chills/sweats, chest pain, dyspnea, dysuria.

Of note, his last colonoscopy was in ___ by Dr. ___ - 
which was notable for only for 2 tubular adenomas at hepatic 
flexure and one rectal polyp, all of which were excised. 

 
Past Medical History:
Past Medical History:
-Metastatic medullary thyroid cancer (liver mets) 
-Colon cancer status post transverse colectomy ___
-Prostate cancer ___ s/p brachytherapy, ___ score 6. 
-Recurrent nephrolithiasis s/p multiple lithotripsies, in ___ 
complicated by large renal hematoma
-Cystic pancreatic, most consistent  with side-branch IPMN, 
under surveillance w MRI
-Celiac disease since confirmed with biopsy, not compliant with 
gluten-free diet
-HTN 
-Hypercholesterolemia

Past Surgical History:
-___ at ___ underwent EUA, excision of multiple 
hypertrophied anal papilla, excision of possible rectal polyp 
versus hypertrophied rectal mucosa in R posterior position, 
defect closed w running vicryl suture. Path c/w solitary rectal 
ulcer syndrome
-Hemorrhoidectomy in ___ at ___
-transverse colectomy for colon ca ___
-total thyroidectomy ___
-parathyroidectomy ___
-left neck dissection ___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist, OP clear
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding, no 
palpable masses
DRE: scant dried blood on external examination, normal sphincter 
tone, no gross blood
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 07:10AM BLOOD WBC-8.5 RBC-2.66* Hgb-7.8* Hct-24.3* 
MCV-91 MCH-29.3 MCHC-32.1 RDW-15.2 RDWSD-50.4* Plt ___
___ 07:10AM BLOOD Plt ___
 
Brief Hospital Course:
The patient presented to the ___ with multiple episodes 
of bright red blood per rectum. In the ___, he was 
hemodynamically stable with a Hct mildly decreased from 
baseline. He passed a few more ounces of bright red blood in the 
toilet there, and after a fluid bolus was transferred to ___. 
He was transfused one unit of blood and admitted for 
observation.  In the morning, his Hct was stable and he was 
feeling better without further episodes of BRBPR. He is eating a 
regular diet, ambulating independently, voiding, and 
hemodynamically stable. 
 
Medications on Admission:
allopurinol ___, calcitriol, levothyroxine, simvastatin, 
valsartan, ASA81', 
Vitamin D3, ferrous sulfate, calcium citrate
 
Discharge Medications:
no new medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for management of your low blood count.  You 
were transfused one unit of blood, and your blood count is now 
stable. If you pass a large volume of blood per rectum, please 
go to your nearest emergency room. 
 
Followup Instructions:
___